US05256675
A mixture of 2-acetylamino-5-bromothiazole (1.9 g), 2-mercaptoimidazole (0.9 g) and potassium carbonate (1.5 g) in N,N-dimethylformamide (30 ml) was heated at 90° C. for 2.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was extracted with methanol. The solvent was concentrated under reduced pressure to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 150 g) and eluted with a mixture of chloroform and methanol (10:1). The fraction containing the objective compound were combined and concentrated under reduced pressure to give 2-acetylamino-5-(2-imidazolylthio)thiazole (1.8 g, yield: 87.4%). mp: 230°-235° C. (dec.) IR (Nujol): 3150, 3100, 1710, 1550, 1290 cm-1

reactant | 2-acetylamino-5-bromothiazole | 1.9 g | C(C)(=O)NC=1SC(=CN1)Br | C5H5BrN2OS
reactant | 2-mercaptoimidazole | 0.9 g | SC=1NC=CN1 | C3H4N2S
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-5-(2-imidazolylthio)thiazole | 1.8 g, yield: 87.4% | C(C)(=O)NC=1SC(=CN1)SC=1NC=CN1 | C8H8N4OS2
